US07199147B2
A mixture of 4-methyl-5-[(trans-4-pyrrolidin-1-ylcyclohexyl)oxy]-1-tetrahydro-2H-pyran-2-yl-1H-indazole (62.1 mg, 0.162 mmol), a 4N-hydrochloric acid/dioxane solution (2.0 ml) and isopropanol (2.0 ml) was stirred at room temperature for 4 hours. The solvent was distilled off and a 1N-aqueous sodium hydroxide solution (20 ml) was added to the residue, followed by extraction with ethyl acetate (20 ml) (twice). The extract solution was dried over magnesium sulfate and then concentrated to dryness, and the residue oil was purified by elution by a silica gel column chromatography (hexane/ethyl acetate/triethylamine=20:40:3) to obtain 4-methyl-5-[(trans-4-pyrrolidin-1-ylcyclohexyl)oxy]-1H-indazole (28.3 mg, 58%).

reactant | 4-methyl-5-[(trans-4-pyrrolidin-1-ylcyclohexyl)oxy]-1-tetrahydro-2H-pyran-2-yl-1H-indazole | 0.162 mmol, 62.1 mg | CC1=C2C=NN(C2=CC=C1O[C@@H]1CC[C@H](CC1)N1CCCC1)C1OCCCC1 | C23H33N3O2
reactant | hydrochloric acid dioxane | 2.0 ml | Cl.O1CCOCC1
solvent | isopropanol | 2.0 ml | C(C)(C)O | C3H8O
product | 4-methyl-5-[(trans-4-pyrrolidin-1-ylcyclohexyl)oxy]-1H-indazole | 28.3 mg, 58% | CC1=C2C=NNC2=CC=C1O[C@@H]1CC[C@H](CC1)N1CCCC1 | C18H25N3O
